US04213978
Preparation of reactant L-cysteine hexyl ester hydrochloride:
L-Cysteine hydrochloride 78.5 g was added to 150 ml of hexanol saturated with dry HCl gas. The mixture was heated under reflux overnight. The solution was evaporated to about half of the total volume, ethyl ether 150 ml was added. The solution gave crystals when it was cooled. Crystals were filtered and were recrystallized from ethyl acetate; yield 45 g; mp 89°-90° C.; IR (KBr) 1745 cm-1 ; NMR (CDCl3) δ 9.2-8.4 (b, 3, NH3⊕), 4.7 (5, 1, --CH--), 4.3 (t, 2, --OCH2 --), 3.4 (b, 2, CH2S--), 1.0-3.0 (m, 8), 1.0 (t, 3-, CH5).

reactant | L-Cysteine hydrochloride | 78.5 g | Cl.N[C@@H](CS)C(=O)O
reactant | HCl | Cl | ClH
reactant | hexanol | 150 ml | C(CCCCC)O | C6H14O
product | L-cysteine hexyl ester hydrochloride | Cl.C(CCCCC)OC([C@@H](N)CS)=O | InChI=1S/C9H19NO2S.ClH/c1-2-3-4-5-6-12-9(11)8(10)7-13;/h8,13H,2-7,10H2,1H3;1H/t8-;/m0./s1
